US05488140
2.5 g (7.59 mmol) of benzyl 6-hydroxy-2(R)-amino-4-phosphonomethyl-hex-3-enoate are dissolved in 35 ml of water and, after addition of 0.25 g of 10% palladium on charcoal, subjected to hydrogenolysis under normal pressure. When no more hydrogen is taken up, the catalyst is filtered off over diatomeic earth, and the filtrate is hydrophilized. 1.12 g (61% yield) of 6-hydroxy-2(R)-amino-4-phosphonomethyl-hex-3-enoic acid are thus obtained. ee=91%; αD -59° (c=1.0 H2O).

reactant | benzyl 6-hydroxy-2(R)-amino-4-phosphonomethyl-hex-3-enoate | 7.59 mmol, 2.5 g | OCCC(=C[C@H](C(=O)OCC1=CC=CC=C1)N)CP(=O)(O)O | C14H20NO6P
reactant | hydrogen | [H][H] | H2
solvent | water | 35 ml | O | H2O
catalyst | palladium on charcoal | 0.25 g | [Pd] | Pd
product | 6-hydroxy-2(R)-amino-4-phosphonomethyl-hex-3-enoic acid | 1.12 g, 61% yield | OCCC(=C[C@H](C(=O)O)N)CP(=O)(O)O | C7H14NO6P
